US07776847B2
To a solution of 2-thioxo-1,2-dihydropyridine-3-carbonitrile (2.1 g, 15.44 mmol) in ethyl acetate (50 mL), bromine (5.9 g, 37.11 mmol) was added drop wise at 0° C. The reaction mixture was allowed to warm to room temperature and then refluxed for 3 h. The reaction mixture was concentrated under reduced pressure. Trituration with hexanes:methylene chloride (1:1) mixture gave 3-bromoisothiazolo[5,4-b]pyridine, as light brown solid which was carried forward without further purification. MW=215 confirmed by LC-MS, tr=16.08 min (Method Y) MH+=216.

reactant | 2-thioxo-1,2-dihydropyridine-3-carbonitrile | 15.44 mmol, 2.1 g | S=C1NC=CC=C1C#N | C6H4N2S
reactant | bromine | 37.11 mmol, 5.9 g | BrBr | Br2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-bromoisothiazolo[5,4-b]pyridine | BrC1=NSC2=NC=CC=C21 | C6H3BrN2S
